US07981903B2
A mixture of 2-({2-{[5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (485 mg, 0.734 mmol) and a 1M aqueous KOH solution (7.34 mL, 7.34 mmol) in dioxane (20 mL) was heated at 80° C. for 7 h. The resulting mixture was allowed to cool to rt. EtOAc (50 mL) was added, followed by a saturated NaHCO3 solution (50 mL). The organic layer was washed with a saturated NaCl solution (50 mL), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-[(2-{[5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide as a white solid (220 mg, 59%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.28 (s, 6H), 2.80 (d, J=4.58 Hz, 3H), 3.03 (s, 2H), 3.82 (s, 3H), 6.31 (dd, J=3.48, 1.83 Hz, 1H), 6.89-7.03 (m, 3H), 7.33 (dd, J=8.79, 2.56 Hz, 1H), 7.36-7.45 (m, 1H), 7.57 (s, 1H), 8.21 (d, J=2.38 Hz, 1H), 8.31 (d, J=8.24 Hz, 1H), 8.51-8.61 (m, 1H), 9.40 (s, 1H), 10.17 (s, 1H), 11.35 (s, 1H); ESIMS (M+H)+=507.

reactant | 2-({2-{[5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 0.734 mmol, 485 mg | CN(CC(=O)NC=1C=CC(=C(C1)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C32H33FN8O5S
reactant | KOH | 7.34 mmol, 1M, 7.34 mL | [OH-].[K+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-[(2-{[5-[(N,N-dimethylglycyl)amino]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 220 mg, 59% | CN(CC(=O)NC=1C=CC(=C(C1)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C25H27FN8O3
